US07208142B2
2-(3,3,5-Trimethyl-1-indanylidene)-3-phenyl-3-oxo-propiononitrile
3,3,5-Trimethyl-1-indanone are reacted with benzoylacetonitrile analogously to Example 1.

reactant | 3,3,5-Trimethyl-1-indanone | CC1(CC(C2=CC=C(C=C12)C)=O)C | C12H14O
reactant | benzoylacetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
product | 2-(3,3,5-Trimethyl-1-indanylidene)-3-phenyl-3-oxo-propiononitrile | CC1(CC(C2=CC=C(C=C12)C)=C(C#N)C(=O)C1=CC=CC=C1)C | C21H19NO
